US08802704B2
Step 2: tert-butyl 2-((4-(N′-hydroxycarbamimidoyl)-2-(trifluoromethyl)benzyl)(methyl)amino)acetate
A solution of tert-butyl 2-((4-cyano-2-(trifluoromethyl)benzyl)(methyl)amino)acetate (0.541 g, 1.65 mmol) and 50% aqueous hydroxylamine (0.50 mL) in ethanol (2 mL) was heated at 75° C. for 2 hours. The solvent was evaporated in vacuo. The residue was partitioned between DCM and water. The organic phase was passed through a hydrophobic frit and evaporated in vacuo to afford the title compound (0.460 g, 77%). 1H NMR (CDCl3, 400 MHz,) δ 7.97 (1H, d, J=8.1 Hz), 7.89 (1H, s), 7.78 (1H, d, J=8.1 Hz), 4.86 (2H, br s), 3.86 (2H, s), 3.23 (2H, s), 2.37 (3H, s), 1.48 (9H, s).

reactant | tert-butyl 2-((4-cyano-2-(trifluoromethyl)benzyl)(methyl)amino)acetate | 1.65 mmol, 0.541 g | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)C(F)(F)F | C16H19F3N2O2
reactant | hydroxylamine | 0.50 mL | NO | H3NO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | tert-butyl 2-((4-(N′-hydroxycarbamimidoyl)-2-(trifluoromethyl)benzyl)(methyl)amino)acetate | 0.460 g, 77% | ON=C(N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)C(F)(F)F | C16H22F3N3O3
